US07858646B2
Synthesis of 3-(4-formyl-phenoxy)-benzonitrile.
The title compound is prepared essentially as described in Preparation 1 substituting 4-fluorobenzaldehyde (0.85 mL, 8.06 mmol) for 3-hydroxybenzyl alcohol and 3-hydroxybenzonitrile (1.06 g, 8.86 mmol) for 6-chloronicotinitrile. Yield (0.90 g, 50%); 1H NMR (CDCl3) 10.01 (s, 1H), 7.95 (d, J=8.5 Hz, 2H), 7.58-7.52 (m, 2H), 7.39-7.34 (m, 2H), 7.14 (d, J=8.5 Hz, 2H).

reactant | 4-fluorobenzaldehyde | 8.06 mmol, 0.85 mL | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | 3-hydroxybenzyl alcohol | OC=1C=C(CO)C=CC1 | C7H8O2
reactant | 3-hydroxybenzonitrile | 8.86 mmol, 1.06 g | OC=1C=C(C#N)C=CC1 | C7H5NO
reactant | 6-chloronicotinitrile | C1=CC(=NC=C1C#N)Cl | C6H3ClN2
product | 3-(4-formyl-phenoxy)-benzonitrile | C(=O)C1=CC=C(OC=2C=C(C#N)C=CC2)C=C1 | C14H9NO2
